US07834034B2
A solution of benzo[b]thiophene-2,5-dicarboxylic acid 2-tert-butyl ester 5-methyl ester (3.018 g, 10.32 mmol) and TFA (20 mL) in CH2Cl2 (50 mL) was allowed to stir at rt for four days. The reaction mixture was concentrated and dried under high vacuum to give benzo[b]thiophene-2,5-dicarboxylic acid 5-methyl ester as a pale solid. MS (EI): cal'd 237.0 (MH+), exp 237.1 (MH+).

reactant | benzo[b]thiophene-2,5-dicarboxylic acid 2-tert-butyl ester 5-methyl ester | 10.32 mmol, 3.018 g | COC(=O)C1=CC2=C(SC(=C2)C(=O)OC(C)(C)C)C=C1 | C15H16O4S
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | benzo[b]thiophene-2,5-dicarboxylic acid 5-methyl ester | COC(=O)C1=CC2=C(SC(=C2)C(=O)O)C=C1 | C11H8O4S
